US07935688B2
(2) Synthesis of (S)-amino-(4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid
A 4 N hydrochloric acid aqueous solution (0.80 mL) was added to a solution of the mixture containing (S)-amino-(4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic acid methyl ester (220 mg) in acetone (0.60 mL), and the mixture was stirred with microwave heating at 140° C. for 10 minutes. The reaction mixture was purified by high performance liquid chromatography (GL Sciences Inertsil ODS-3, 20 mm I.D.×150 mm, methanol:water=20:80 to 100:0, 20 mL/min) and concentrated under reduced pressure to give the target compound as a white solid (14.0 mg, 36% in two steps).

reactant | hydrochloric acid | 4 N, 0.80 mL | Cl | ClH
reactant | (S)-amino-(4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic acid methyl ester | 220 mg | COC([C@H](C1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)CC)C)N)=O | C35H47NO3
solvent | acetone | 0.60 mL | CC(=O)C | C3H6O
product | (S)-amino-(4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid | 14.0 mg, 36% | N[C@H](C(=O)O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)CC)C | C34H45NO3
